US06303593B1
1-(2,4-Dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-hydroxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine (isomer 1)
To a solution of 0.1107 g (0.16 mmol) of 1-(2,4-dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-((S)-2-phenylpropionyl)oxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine (isomer 1) in 2 ml of THF at 0° C. was added 0.5 mL (0.5 mmol) of a 1 M solution of LiAlH4 in THF. The solution was stirred at 0° C. for 1 h, then was quenched by addition of 0.5 mL of 5N NaOH solution. The mixture was diluted with ethyl acetate, dried over MgSO4, filtered and the filtrate concentrated. The residue was purified by chromatography (silica, hexanes:acetone, 4:1) to give the title compound. Mass Spectrum (ESI) m/e=543 (M+1 35Cl, 35Cl), 545 (M+1 35Cl, 37Cl), and 547 (M+1 37Cl, 37Cl). [α]D=+11.7 (c=1.54, CHCl3).

reactant | 1-(2,4-dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-((S)-2-phenylpropionyl)oxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine | 0.16 mmol, 0.1107 g | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CN2CCC(CC2)CC(CC2=CC=CC=C2)OC([C@@H](C)C2=CC=CC=C2)=O)C=CC(=C1)Cl | C39H44Cl2N2O2S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(2,4-Dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-hydroxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CN2CCC(CC2)CC(CC2=CC=CC=C2)O)C=CC(=C1)Cl | C30H36Cl2N2OS
